* lcd.cir — SPICE subckt for the 40-pin TTL RGB LCD + SY7201 backlight subsystem.
*
* PROJECT-AGNOSTIC: the subckt pins are the subsystem's ABSTRACT interface
* (subsystems/lcd/lcd.py INTERFACE), NOT any board net. A consuming project
* wires these pins to its real nets — exactly as the netlist bind map does.
* The SY7201 boost is an active switching regulator (no useful analytic
* small-signal model on this sheet); this subckt captures the PASSIVE network
* the subsystem adds: the boost input/output bulk + catch diode + inductor +
* ISET sense, the panel-VDD bypass, the touch-I2C pull-ups + clamp, the DISP /
* BL_PWM / TP_RST default pulls, and the PCLK source-series damping. That is
* what the local test and any board-level .op reason about.
*
* Internal SIGNAL nodes (kept VERBATIM from the netlist, not subckt pins):
*   LCD_BL_SW       boost switch node (L1.2 / U1.LX / D1 anode)
*   LCD_VLED_P      boost output / OVP sense (D1 cathode / C2 / FFC pin 2)
*   LCD_VLED_N      LED-string return / FB current sense (FFC pin 1 / R1 / FB)
*   LCD_PCLK_PANEL  PCLK after the 22R damping resistor (R7 / FFC pin 30)
*
* Values mirror subsystems/lcd/lcd.py one-for-one (parse_si compatible):
*   L1 10uH                              boost inductor   (+VBOOST_IN -> LCD_BL_SW)
*   D1 SS34                              catch diode      (LCD_BL_SW  -> LCD_VLED_P)
*   C1 10u                               boost input bulk (+VBOOST_IN -> GND)
*   C2 2.2u                              boost output 50V (LCD_VLED_P -> GND)
*   R1 1.5R                              ISET sense       (LCD_VLED_N -> GND)
*   C3 100n + C4 10u                     panel VDD bypass (+VDD_LCD   -> GND)
*   R2 4k7 + R3 4k7                      touch I2C pull-ups (+VDD_LCD -> TP_SDA/SCL)
*   R6 10k                               DISP pull-up     (+VDD_LCD   -> LCD_DISP)
*   R5 100k                              TP_RST pull-down (TP_RST     -> GND)
*   R4 100k                              BL_PWM pull-down (BL_PWM     -> GND)
*   R7 22R                               PCLK damping     (LCD_PCLK   -> LCD_PCLK_PANEL)
*
* Port order (GND last, by convention; the bare RGB/sync data lines + TP_INT
* carry no subsystem-local passive and so are not subckt pins):
*   VBOOST_IN VDD_LCD VDD_TP_CLAMP LCD_DISP TP_SDA TP_SCL TP_RST LCD_PCLK BL_PWM GND

.subckt lcd VBOOST_IN VDD_LCD VDD_TP_CLAMP LCD_DISP TP_SDA TP_SCL TP_RST LCD_PCLK BL_PWM GND

* backlight boost passive network (active SY7201 modelled as the catch diode +
* a 9.6 V LED string clamp into the ISET sense, for a DC .op smoke test only)
L1 VBOOST_IN LCD_BL_SW 10uH
D1 LCD_BL_SW LCD_VLED_P DMOD
C1 VBOOST_IN GND 10u
C2 LCD_VLED_P GND 2.2u
R1 LCD_VLED_N GND 1.5R

* panel VDD bypass (lcd_backlight.md 3.1: 10u + 100n at the FFC)
C3 VDD_LCD GND 100n
C4 VDD_LCD GND 10u

* touch I2C pull-ups + DISP pull-up to the gated panel rail
R2 VDD_LCD TP_SDA 4k7
R3 VDD_LCD TP_SCL 4k7
R6 VDD_LCD LCD_DISP 10k

* default pulls: touch reset held low, backlight enable off
R5 TP_RST GND 100k
R4 BL_PWM GND 100k

* pixel-clock source-series damping (~33 MHz, highest edge-rate line)
R7 LCD_PCLK LCD_PCLK_PANEL 22R

.model DMOD D
.ends lcd

* Standalone smoke harness (ngspice -b runs it; harmless under any project use):
* a 1 V source through 1k onto VDD_LCD settles to 1 V at DC across the bypass.
.subckt _src P
V1 vin 0 1
R1 vin P 1k
.ends _src
.end
